US06897231B2
F. 3-(4-Methoxyphenyl)-1H-indazole-5-carboxamide
A mixture of 20 mg (0.080 mmol) of 3-(4-methoxyphenyl)-1H-indazole-5-carbonitrile, 0.428 mL of 95% denatured ethanol, 0.021 mL of H2O, 0.32 mL of 30% aqueous hydrogen peroxide (aq. H2O2) and 0.032 mL of 6.0 N aq. NaOH (0.192 mmol, 2.4 equiv.) was heated at 50° C. for 3 h, and then acidified to pH=6.0 with 0.052 mL of 6.0 N 10 aq. HCl. The mixture was extracted with 2× EtOAc. The combined organics were washed with 2× sat. aq. NaHCO3, dried (Na2SO4), filtered, and concentrated affording the title compound (8.9 mg, 41.6% yield): 1H NMR (CDCl3/DMSO-d6) δ 12.5 (br s, 1H), 8.60 (s, 1H), 7.95 (d, 2H), 7.85 (d, 2H), 7.55 (d, 1H), 7.05 (d, 2H), 3.89 (s, 3H); ES-MS (m/z) 268 [M+1]+.

reactant | 3-(4-methoxyphenyl)-1H-indazole-5-carbonitrile | 0.080 mmol, 20 mg | COC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C#N | C15H11N3O
reactant | hydrogen peroxide | 0.32 mL | OO | H2O2
reactant | NaOH | 0.192 mmol, 6.0 N, 0.032 mL, 2.4 equiv. | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | H2O | 0.021 mL | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 3-(4-Methoxyphenyl)-1H-indazole-5-carboxamide | 8.9 mg, 41.6% yield | COC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C(=O)N | C15H13N3O2
